US07268241B2
Progesterone Receptor:
Uterus cytosol of the estradiol-primed rabbit, stored at −30° C., in TED buffer (20 mmol of Tris/HCl, pH 7.4; 1 mmol of ethylenediamine tetraacetate, 2 mmol of dithiothreitol) with 250 mmol of saccharose.

reactant | estradiol | C[C@]12CC[C@@H]3C=4C=CC(=CC4CC[C@H]3[C@@H]1CC[C@@H]2O)O | C18H24O2
reactant | Tris HCl | 20 mmol | C(C(CO)(CO)N)O.Cl
reactant | ethylenediamine tetraacetate | 1 mmol | C(C)(=O)ON(CCN(OC(C)=O)OC(C)=O)OC(C)=O | C10H16N2O8
reactant | dithiothreitol | 2 mmol | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | saccharose | 250 mmol | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
product | Progesterone | CC(=O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)C | C21H30O2
